US08012966B2
A stirred solution of 2-(2-amino-ethyl)-4-(4-fluoro-phenyl)-5-formyl-1H-pyrrole-3-carboxylic acid ethyl ester (257.5 mg, 2.5 mmol), lithium hydroxide monohydrate (840 mg, 20 mmol) in ethanol (95%, 20 ml) was heated to reflux under an argon atmosphere for 3 hours. The mixture was added with cold water (150 ml), stirred for 10 minutes, extracted with a 5 to 1 solvent mixture of dichloromethane and methanol (50 ml×7), washed with brine, dried with anhydrous sodium sulfate and concentrated under reduced pressure. The crude product was recrystallized from dichloromethane and methanol to give 3-(4-fluoro-phenyl)-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde (170 mg, 26.3%) as a red solid.

reactant | 2-(2-amino-ethyl)-4-(4-fluoro-phenyl)-5-formyl-1H-pyrrole-3-carboxylic acid ethyl ester | 2.5 mmol, 257.5 mg | C(C)OC(=O)C1=C(NC(=C1C1=CC=C(C=C1)F)C=O)CCN | C16H17FN2O3
reactant | lithium hydroxide monohydrate | 20 mmol, 840 mg | O.[OH-].[Li+]
reactant | water | 150 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-(4-fluoro-phenyl)-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | 170 mg, 26.3% | FC1=CC=C(C=C1)C1=C(NC2=C1C(NCC2)=O)C=O | C14H11FN2O2
